US05030654
2-(4-Acetamidobutyl)-3-{1-[(cis-4-carboxycyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester
2-(4-Aminobutyl)-3-{1-[(cis-4-carboxy-cyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester (280 mg, 0.64 mmole) was dissolved in dichloromethane (30 ml) and treated with triethylamine (152 mg, 1.51 mmole) and acetic anhydride (78 mg, 0.76 mmole). After 20 minutes at room temperature the solvent was evaporated and the residue was dissolved in ethyl acetate (50 ml), washed with 1N hydrochloric acid (50 ml) and water (2×50 ml). The organic layer was separated, dried over magnesium sulphate and evaporated to give a colourless foam. Chromatography on silica gel eluting with a mixture of methanol and dichloromethane (1:19-1:4 by volume) and evaporation of the appropriate fractions gave the title product as a colourless foam (273 mg, 89%). Found: C,60.09; H,8.68; N,4.99. C26H44N2O5,0.5 CH2Cl2 requires, C,60.10; H,8.57; N,5.27%.

reactant | 2-(4-Aminobutyl)-3-{1-[(cis-4-carboxy-cyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester | 0.64 mmole, 280 mg | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)O)=O)CCCCN)=O | C24H42N2O5
reactant | triethylamine | 1.51 mmole, 152 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.76 mmole, 78 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4-Acetamidobutyl)-3-{1-[(cis-4-carboxycyclohexyl)carbamoyl]cyclopentyl}propanoic acid t-butyl ester | 273 mg, 89% | C(C)(C)(C)OC(C(CC1(CCCC1)C(N[C@@H]1CC[C@@H](CC1)C(=O)O)=O)CCCCNC(C)=O)=O | C26H44N2O6
